US08754079B2
XXXIX.1 Cis/trans-4-(3-nitro-pyridin-2-yloxy)-cyclohexanol
Prepared analogously to III.1 from 3.6 g 2-fluoro-3-nitropyridine and 2.9 g 1,4-cyclohexanediol.

reactant | 2-fluoro-3-nitropyridine | 3.6 g | FC1=NC=CC=C1[N+](=O)[O-] | C5H3FN2O2
reactant | 1,4-cyclohexanediol | 2.9 g | C1(CCC(CC1)O)O | C6H12O2
product | trans-4-(3-nitro-pyridin-2-yloxy)-cyclohexanol | [N+](=O)([O-])C=1C(=NC=CC1)O[C@@H]1CC[C@H](CC1)O | C11H14N2O4
